US04152327
10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide (IV)
A solution of 1.03 g (0.011 mole) of 2-chloroacetamide in 8 ml of dimethylformamide was added dropwise to a stirred solution of 3.57 g (0.01 mole) of 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine in 12 ml of dimethylformamide and 1.11 g (0.011 mole) of triethylamine. After stirring for 17 hours, the mixture was diluted with 20 ml. of water and extracted with ether. The combined ether extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was recrystallized from acetonitrile, m.p. 165°-168°.

reactant | 2-chloroacetamide | 0.011 mole, 1.03 g | ClCC(=O)N | C2H4ClNO
reactant | 10-hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | 0.01 mole, 3.57 g | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(C(CCCCC)C)C | C23H35NO2
reactant | triethylamine | 0.011 mole, 1.11 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 10-Hydroxy-5,5-dimethyl-8-(1,2-dimethylheptyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)N)C(C(CCCCC)C)C | C25H38N2O3
